US05571821
N-(3,4-dimethyl-5-isoxazolyl)furan-2-sulfonamide was prepared as described in Example 34B from 3,4-dimethyl-5-amino isoxazole (0.122 g, 1.0 mmol), furan-2-sulfonyl chloride (0.50 g, 3.0 mmol) and NaOH (64 mg). Flash chromatography (50% ethyl acetate/hexanes) yielded 70 mg of a yellow solid. Recrystallization from CHCl3 /hexanes produced an off-white solid (46 mg, 29% yield), m.p 107°-110° C.

reactant | 3,4-dimethyl-5-amino isoxazole | 1.0 mmol, 0.122 g | CC1=NOC(=C1C)N | C5H8N2O
reactant | furan-2-sulfonyl chloride | 3.0 mmol, 0.50 g | O1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO3S
reactant | NaOH | 64 mg | [OH-].[Na+]
product | N-(3,4-dimethyl-5-isoxazolyl)furan-2-sulfonamide | CC1=NOC(=C1C)NS(=O)(=O)C=1OC=CC1 | C9H10N2O4S
